US04560685
6-Chloro-2-piperazino-4-dimethylamino-7-benzylamino-pteridine
This compound was prepared analogous to Example 1 from 2,6-dichloro-4-dimethylamino-7-benzylamino-pteridine and piperazine.

reactant | 2,6-dichloro-4-dimethylamino-7-benzylamino-pteridine | ClC1=NC2=NC(=C(N=C2C(=N1)N(C)C)Cl)NCC1=CC=CC=C1 | C15H14Cl2N6
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 6-Chloro-2-piperazino-4-dimethylamino-7-benzylamino-pteridine | ClC=1N=C2C(=NC(=NC2=NC1NCC1=CC=CC=C1)N1CCNCC1)N(C)C | C19H23ClN8
